* Cascode Current Mirror
Vdd vdd 0 DC 5
Iref vdd ref DC 100u
Vbias bias 0 DC 2.5
M1 n1 ref 0 0 NMOS
M2 ref bias n1 0 NMOS
M3 n2 ref 0 0 NMOS
M4 out bias n2 0 NMOS
Rload vdd out 20k
.model NMOS NMOS LEVEL=1 VTO=1 KP=1m LAMBDA=0.02 KF=0 AF=1
.op

.control
set noaskquit
save all
run
.endc

.end

